US04689338
Using the method of Example 1, 4-chloro-3-nitroquinoline was reacted with 2-hydroxy-2-methylpropylamine to provide 4-(2-hydroxy-2-methylpropylamino)3-nitroquinoline, m.p. 234°-244° C. (dec.).

reactant | 4-chloro-3-nitroquinoline | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
reactant | 2-hydroxy-2-methylpropylamine | OC(CN)(C)C | C4H11NO
product | 4-(2-hydroxy-2-methylpropylamino)3-nitroquinoline | OC(CNC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-])(C)C | C13H15N3O3
